2197-06-05 06:55:00 Physician Resident Progress Note
Chief Complaint: Brain CA with incr. ICP
   24 Hour Events: -
 PICC LINE START [**2197-6-4**] 10:16 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Mannitol - 25 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt is unresponsive
   Flowsheet Data as of  [**2197-6-5**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 62 (51 - 63) bpm
   BP: 110/62(74) {103/54(64) - 124/95(99)} mmHg
   RR: 13 (10 - 15) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                    220 mL
                                                                  1,872 mL
   PO:
             TF:
                                                                     60 mL
                                                                    415 mL
   IVF:
                                                                    160 mL
                                                                  1,407 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    405 mL
   Urine:
                                                                    160 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     60 mL
                                                                  1,467 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% RA
   Physical Examination
   GEN: Unarousable, non-verbal
   HEENT: R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: Non-purposeful spontaneous movements; does not follow commands;
   squeezes fingers with left hand reflexively but does not let go when
   asked; 1+ DTRs on right, 1+ on left, ankle jerks absent; right toe is
   upgoing, left toe is mute
   Labs / Radiology
   237 K/uL
   10.8 g/dL
   227 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   20 mg/dL
   105 mEq/L
   143 mEq/L
   31.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2197-6-2**]  03:40 PM
                             [**2197-6-2**]  07:06 PM
                             [**2197-6-2**]  11:36 PM
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   Hct
   36
   37.1
   35.6
   31.8
   31.3
   Plt
   [**Telephone/Fax (3) 3593**]37
   Cr
   0.8
   0.7
   0.6
   TCO2
   27
   29
   28
   29
   30
   Glucose
   105
   137
   172
   138
   178
   227
   Other labs: PT / PTT / INR:14.5/23.0/1.3, Lactic Acid:1.5 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided brain CA, likely lymphoma, with deteriorating
   clinical status in the setting of worsening cerebral edema and
   effacement. Admitted for observation and initiation of chemotherapy
   [**6-5**].
   .
   #Brain CA s/p biopsy [**6-2**]
 Stable, unchanged neuro exam; likely
   primary CNS lymphoma by imaging and prelim path c/b vasogenic edema and
   midline shift causing severe encephalopathy; low suspicion for
   meningo-encephalitis as GS from biopsy swab was negative and other
   explanation for clinical scenario; HIV and toxo neg
   -cont. decadron 8 mg q8; 10 mg IV x 1 if acute decompensation, f/b
   repeat head CT
   -check mannitol q6; cont. mannitol 25 g IV q6 (hold for osms > 320)
   -low threshold for starting empiric ABX for meningoencephalitis as pt
   is immunosuppressed and may not mount fever/leukocytosis (WBC @ present
   likely reactive from steroids)
   -keppra for seizure ppx (no seizure activity reported to date)
   -serial neuro exams
   -initiation of MTX AM [**6-5**] - Dr. [**Last Name (STitle) 810**] following
   .
   #HTN
   -cont lisinopril
   -cont HCTZ
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -D51/2NS + 1 amp HCO3 @ 150/hr; pre-treat for MTX with bicarb for urine
   alkalinization
   -Replete @ 60 cc/hr
   -24 hr urine for CrCl
   -RISS
   .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   .
   #Access: PIV; PICC
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   ICU [**Name (NI) **]
   Nutrition:
   Replete (Full) - [**2197-6-4**] 11:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-4**] 10:17 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed FULL
   Disposition: ICU

2197-06-06 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Mannitol - 10 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 53 (45 - 88) bpm
   BP: 112/64(76) {109/60(74) - 144/88(98)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  7,663 mL
                                                                  2,169 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    443 mL
   IVF:
                                                                  5,727 mL
                                                                  1,606 mL
   Blood products:
   Total out:
                                                                  4,295 mL
                                                                    900 mL
   Urine:
                                                                  4,295 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,368 mL
                                                                  1,269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   GEN: Somnolent but arousable to verbal stimuli
   HEENT: R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: Makes purposeful spontaneous movements; nods and shakes heads
   appropriately in response to questions, but remains non-verbal; follows
   commands (opens eyes, squeezes and releases fingers with left hand) 1+
   DTRs on right, 1+ on left, ankle jerks absent; right toe is upgoing,
   left toe is mute
   Labs / Radiology
   220 K/uL
   10.6 g/dL
   217 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   31.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2197-6-2**]  07:06 PM
                             [**2197-6-2**]  11:36 PM
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   Hct
   36
   37.1
   35.6
   31.8
   31.3
   31.2
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   27
   29
   28
   29
   30
   Glucose
   137
   172
   138
   178
   227
   217
   Other labs: PT / PTT / INR:14.6/23.8/1.3, ALT / AST:26/9, Alk Phos / T
   Bili:/0.4, Lactic Acid:1.5 mmol/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided brain CA, likely lymphoma, with deteriorating
   clinical status in the setting of worsening cerebral edema and
   effacement. Admitted for observation and initiation of chemotherapy
   [**6-5**].
   .
   #Brain CA s/p biopsy [**6-2**] - likely primary CNS lymphoma by imaging and
   prelim path c/b vasogenic edema and midline shift causing severe
   encephalopathy; low suspicion for meningo-encephalitis as GS from
   biopsy swab was negative and other explanation for clinical scenario;
   HIV and toxo neg
   -cont. decadron 8 mg q8; 10 mg IV x 1 if acute decompensation, f/b
   repeat head CT
   -check mannitol q6; cont. mannitol 25 g IV q6 (hold for osms > 320)
   -low threshold for starting empiric ABX for meningoencephalitis as pt
   is immunosuppressed and may not mount fever/leukocytosis (WBC @ present
   likely reactive from steroids)
   -keppra for seizure ppx (no seizure activity reported to date)
   -serial neuro exams
   -initiation of MTX AM [**6-5**] - Dr. [**Last Name (STitle) 810**] following
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -D51/2NS + 1 amp HCO3 @ 150/hr
   -Replete @ 60 cc/hr
   -24 hr urine for CrCl
   -RISS
   .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   .
   #Access: PIV; PICC eval
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   ICU [**Name (NI) **]
   Nutrition:
   Replete (Full) - [**2197-6-5**] 11:54 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2197-06-06 12:27:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status--CNS Lymphoma/Cerebral Edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -MTX given yesterday without event
   -
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2197-6-6**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 64 (48 - 88) bpm
   BP: 121/87(93) {107/53(66) - 144/88(98)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  7,663 mL
                                                                  2,696 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    731 mL
   IVF:
                                                                  5,727 mL
                                                                  1,845 mL
   Blood products:
   Total out:
                                                                  4,295 mL
                                                                  2,510 mL
   Urine:
                                                                  4,295 mL
                                                                  2,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,368 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, s/p biopsy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, some improvement, right hemi-paresis without change,
   right toe up, left toe without response
   Labs / Radiology
   10.6 g/dL
   220 K/uL
   217 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   31.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2197-6-2**]  07:06 PM
                             [**2197-6-2**]  11:36 PM
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   Hct
   36
   37.1
   35.6
   31.8
   31.3
   31.2
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   27
   29
   28
   29
   30
   Glucose
   137
   172
   138
   178
   227
   217
   Other labs: PT / PTT / INR:14.6/23.8/1.3, ALT / AST:26/9, Alk Phos / T
   Bili:/0.4, Lactic Acid:1.5 mmol/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   53 yo female with CNS lesion and diagnosis of lymphoma now s/p CNS
   biopsy and move towards therapy with MTX.  Her course has been
   complicated by significant cerebral edema and focus on
   Mannitol/Decadron and maintaining isotonic fluids.
   1)CNS Lymphoma-
      -MTX to start
      -Seizure prophylaxis to continue
      -HCO3- given with D5
      -Bactrim continuing
   2)Cerebral Edema-Some improvement in exam which is encouraging over
   time.
       -Mannitol 25 q6
       -Decadron 8mg q 8 hrs
       -Will need to continue to discuss with Neuro and Onc to consider
   dose adjustments
       -Isotonic fluids only
   3)ICU-Full Code, continue ICU care
   ICU Care
   Nutrition:
   Replete (Full) - [**2197-6-6**] 08:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-06-07 07:03:00 Physician Resident Progress Note
Chief Complaint: CNS lymphoma with slight herniation
   24 Hour Events:
   Improved neuro function
   [**2197-6-6**] methotrexate level 3.4
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Mannitol - 10 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 53 (51 - 72) bpm
   BP: 127/67(83) {99/53(66) - 133/87(93)} mmHg
   RR: 9 (8 - 14) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  6,867 mL
                                                                  1,992 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    419 mL
   IVF:
                                                                  5,217 mL
                                                                  1,573 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                  1,750 mL
   Urine:
                                                                  5,200 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Gen: NAD, asleep but easy to wake up, makes eye contact while talking
   to her, answers most yes/no questions appropriately, not able to tell
   me where she is, response appropriately to her name, denies pain
   Neuro: reactive pupils, L slightly greater than R, denies difference in
   sensation from R to L, can move R arm and squeezes R hand on command
   CV: RRR, no M/R/G
   Lungs: CTA B anteriorly, no supplemental O2 requirement, nonlabored
   breathing
   Abd: +bs, soft, ntnd
   Ext: warm, 2+ distal pulses
   Labs / Radiology
   235 K/uL
   10.9 g/dL
   214 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   140 mEq/L
   31.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2197-6-2**]  11:36 PM
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   9.8
   Hct
   37.1
   35.6
   31.8
   31.3
   31.2
   31.8
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   235
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   29
   28
   29
   30
   Glucose
   172
   138
   178
   227
   217
   214
   Other labs: PT / PTT / INR:13.0/21.2/1.1, ALT / AST:26/9, Alk Phos / T
   Bili:/0.4, Lactic Acid:1.5 mmol/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.6 mg/dL
   [**2197-6-5**] Urine Cx: NG
   [**2197-5-31**] Blood Cx: NG
   [**2197-6-2**] Brain Swab:  NG
   [**2197-6-4**] head CT:  No significant change in degree of mass effect or
   herniation secondary to hyperattenuating lesion involving the left
   putamen and globus pallidus.  Given that the lesion crosses the midline
   via the corpus collosum, the ddx is most suggestive of lymphoma or
   glioblastoma.
   Assessment and Plan
   53 y/o F w/ left-sided brain CA, likely primary CNS lymphoma, c/b
   intracranial HTN, midline shift, and uncal herniation with subsequent
   clinical deterioration, now stable with slight improvement in
   neurological status s/p systemic MTX.
   #Brain CA c/b - s/p 1st dose MTX
 improved neuro exam c/w [**6-5**]
   -cont. decadron 8 mg q6; 10 mg IV x 1 if acute decompensation
   -check mannitol q6; start weaning mannitol starting at 25 g IV q6 (hold
   for osms > 320)
   -isotonic IVF
   -consider repeat head CT today
   -[**2197-6-6**] MTX level: 3.4
   -keppra for seizure ppx (no seizure activity reported to date)
   -serial neuro exams
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -D51/2NS + 1 amp HCO3 @ 150/hr
   - continue tube feeds
   -Replete @ 60 cc/hr
   -24 hr urine for CrCl
   -RISS
   .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   .
   #Access: PIV; PICC
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   #Dispo: remain in ICU until mannitol taper is complete then discharge
   to floor.
   ICU Care
   Nutrition:
   Replete (Full) - [**2197-6-7**] 12:53 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-06-07 11:59:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   CNS Lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MTX started
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-7**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-7**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 62 (50 - 78) bpm
   BP: 113/65(74) {99/56(68) - 133/87(93)} mmHg
   RR: 10 (8 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.3 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  6,867 mL
                                                                  3,224 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    553 mL
   IVF:
                                                                  5,217 mL
                                                                  2,640 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                  2,930 mL
   Urine:
                                                                  5,200 mL
                                                                  2,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, slight asymmetry but reactive
   Head, Ears, Nose, Throat: Post Biopsy
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Move left side spontaneously and in response to commande,
   Tone: Not assessed, Opens Eyes to voice and responds to questions
   although responses are confused.
   Labs / Radiology
   10.9 g/dL
   235 K/uL
   214 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   140 mEq/L
   31.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2197-6-2**]  11:36 PM
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   9.8
   Hct
   37.1
   35.6
   31.8
   31.3
   31.2
   31.8
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   235
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   29
   28
   29
   30
   Glucose
   172
   138
   178
   227
   217
   214
   Other labs: PT / PTT / INR:13.0/21.2/1.1, ALT / AST:26/9, Alk Phos / T
   Bili:/0.4, Lactic Acid:1.5 mmol/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.6 mg/dL
   Imaging: CT Head--no obvious worsening
   Assessment and Plan
   53 yo female with CNS involvement with lymphoma who was admit to ICU
   with severely depressed mental status and has unilateral CNS insult
   with significant cerebral edema now on primary treatment for lymphoma
   and supportive Rx for cerebral edema.
   1)Lymphoma-
   MTX
levels checked yesterday
   HCO3
   Allopurinol
   Bactrim
   2)Cerebral Edema-
   -Continue with decadron Rx
8mg q8 hrs
   -Continue with Mannitol
and will hold for SMS >320
   3)Altered Mental Status-
   -Seizure porphylaxis with Keppra
   -Improving
   gg
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-06-08 07:08:00 Physician Resident Progress Note
Chief Complaint: mental status changes
   53 y/o F w/ left-sided brain CA, likely primary CNS lymphoma, c/b
   intracranial HTN, midline shift, and uncal herniation with subsequent
   clinical deterioration, now stable with slight improvement in
   neurological status s/p systemic MTX.
   24 Hour Events:
 CALLED OUT
   --> neuro onc rec decreasing mannitol from 26 Q6hrs, to TID today, then
   [**Hospital1 **] tomorrow and then Q day.
   --> pulled out NG tube 2 x, replaced once.  Decision re: ablility to
   eat and swallow on own.
   Subjective:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Mannitol - 10 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-7**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 53 (49 - 78) bpm
   BP: 126/76(89) {102/54(67) - 131/80(94)} mmHg
   RR: 11 (8 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.3 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  6,505 mL
                                                                  1,348 mL
   PO:
             TF:
                                                                  1,127 mL
                                                                     14 mL
   IVF:
                                                                  5,298 mL
                                                                  1,334 mL
   Blood products:
   Total out:
                                                                  5,750 mL
                                                                  1,490 mL
   Urine:
                                                                  5,750 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen:
   HEENT:
   lungs:
   CV:
   abd:
   Ext:
   Neuro:
   Labs / Radiology
   232 K/uL
   11.0 g/dL
   161 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   105 mEq/L
   140 mEq/L
   30.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   Hct
   37.1
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   235
   232
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   28
   29
   30
   Glucose
   172
   138
   178
   227
   217
   214
   161
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.3 mg/dL
   Imaging: CT head -7/16No significant change since [**6-4**] CT with mass in
   the left lentiform nucleus
   crossing the rostrum of the corpus callosum, associated extensive
   vasogenic
   edema extending through deep [**Doctor Last Name 734**] matter into the mid brain and stable
   shift
   of the midline structures and "trapping" of the contralateral lateral
   ventricle.
   Microbiology: brain cx - neg for bacteria and fungal. unable to do
   viral due to sampling.
   blood cx neg x2
   urine cx neg x1 & pending x1
   Assessment and Plan
   53 y/o F w/ left-sided brain CA, likely primary CNS lymphoma, c/b
   intracranial HTN, midline shift, and uncal herniation with subsequent
   clinical deterioration, now stable with slight improvement in
   neurological status s/p systemic MTX.
   #Brain CA c/b - s/p 1st dose MTX
 improved neuro exam c/w [**6-5**]
   -cont. decadron 8 mg q6; 10 mg IV x 1 if acute decompensation
   -check mannitol q6; start weaning mannitol starting at 25 g IV q6 (hold
   for osms > 320)
   -isotonic IVF
   -consider repeat head CT today
   -[**2197-6-6**] MTX level: 3.4
   -keppra for seizure ppx (no seizure activity reported to date)
   -serial neuro exams
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   #Hyperlipidemia
   -cont. statin
   #F/E/N
   -D51/2NS + 1 amp HCO3 @ 150/hr
   - continue tube feeds
   -Replete @ 60 cc/hr
   -24 hr urine for CrCl
   -RISS
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   #Access: PIV; PICC
   #CODE - Presumed FULL pending discussion with family, HCP
   #Dispo: remain in ICU until mannitol taper is complete then discharge
   to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-06-08 11:48:00 Physician Attending Progress Note
Chief Complaint: Cerebral Edema
   CNS lymphoma
   Alteration of Awareness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mannitol weaning undertaken
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-7**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-8**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2197-6-8**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 52 (49 - 69) bpm
   BP: 154/81(98) {102/54(67) - 154/81(98)} mmHg
   RR: 10 (8 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  6,505 mL
                                                                  1,550 mL
   PO:
             TF:
                                                                  1,127 mL
                                                                     14 mL
   IVF:
                                                                  5,298 mL
                                                                  1,536 mL
   Blood products:
   Total out:
                                                                  5,750 mL
                                                                  2,250 mL
   Urine:
                                                                  5,750 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Post Surgical Changes
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Improved
   alertness, in addition
EOMI, she has equal reactive pupils this am.
   She follows commands with left UE/LE, She has diminished reflexes
   bilaterally.
   Labs / Radiology
   11.0 g/dL
   232 K/uL
   161 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   105 mEq/L
   140 mEq/L
   30.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   Hct
   37.1
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   235
   232
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   28
   29
   30
   Glucose
   172
   138
   178
   227
   217
   214
   161
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: OSM-288
   Imaging: CT Head [**6-7**]--no significant change
   Microbiology: CNS culture negative
   Assessment and Plan
   53 yo female with CNS lymphoma complicated by significant cerebral
   edema now undergoing Rx for lyphoma and management acutely of cerebral
   edema.  She has begun weaning of mannitol dosing.
   Cerebral Edema-
   -Decadron
   -Mannitol weaning to [**Hospital1 **] today
   -CT scan acutely for change or following wean of mannitol
   -Isotonic Fluids
   CNS Lymphoma-
   MTX to continue
   Will follow levels qd
   LFT
s qd
   ICU Care
   Nutrition: Will need NGT today for enteral access given risk of
   aspiration
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-06-08 14:37:00 Physician Resident Progress Note
Chief Complaint: mental status changes
   53 y/o F w/ left-sided brain CA, likely primary CNS lymphoma, c/b
   intracranial HTN, midline shift, and uncal herniation with subsequent
   clinical deterioration, now stable with slight improvement in
   neurological status s/p systemic MTX.
   24 Hour Events:
   --> neuro onc rec decreasing mannitol from 26 Q6hrs, to TID today, then
   [**Hospital1 **] tomorrow and then Q day.
   --> pulled out NG tube 2 x, replaced once.  Decision re: ablility to
   eat and swallow on own.
   Subjective:
   Patient sleepy this morning.  Denies pain.  Mental status and alertness
   improved when checked in on her again.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Mannitol - 10 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-7**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 53 (49 - 78) bpm
   BP: 126/76(89) {102/54(67) - 131/80(94)} mmHg
   RR: 11 (8 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.3 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  6,505 mL
                                                                  1,348 mL
   PO:
             TF:
                                                                  1,127 mL
                                                                     14 mL
   IVF:
                                                                  5,298 mL
                                                                  1,334 mL
   Blood products:
   Total out:
                                                                  5,750 mL
                                                                  1,490 mL
   Urine:
                                                                  5,750 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: patient alert, oriented x1 to place.
   HEENT: scalp incision is intact without erythema
   lungs: CTA anteriorly
   CV: RRR, s1 & s2 nl, no m/r/g
   abd: +bs, soft, nt, nd, no masses
   Ext: 2+ radial and DP pulses.
   Neuro: PERRL.  Patient not able to track objecte with eyes.  Patient is
   verbal and reponds to simple questions.  patient able to squeeze hand
   and wiggle toes on left
 unable to do so on right.
   Labs / Radiology
   232 K/uL
   11.0 g/dL
   161 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   105 mEq/L
   140 mEq/L
   30.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:28 AM
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
   WBC
   9.9
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   Hct
   37.1
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   Plt
   [**Telephone/Fax (3) 3593**]37
   220
   235
   232
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   28
   29
   30
   Glucose
   172
   138
   178
   227
   217
   214
   161
   Other labs: PT / PTT / INR:12.5/22.5/1.1,
   ALT / AST:69/16, Alk Phos / T Bili:62/0.5, Lactic Acid:1.5 mmol/L,
   Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   MTX 3.4
 0.15
 pnd today
   Posm 288
   Imaging: CT head -7/16No significant change since [**6-4**] CT with mass in
   the left lentiform nucleus
   crossing the rostrum of the corpus callosum, associated extensive
   vasogenic
   edema extending through deep [**Doctor Last Name 734**] matter into the mid brain and stable
   shift
   of the midline structures and "trapping" of the contralateral lateral
   ventricle.
   Microbiology: brain cx - neg for bacteria and fungal. unable to do
   viral due to sampling.
   blood cx neg x2
   urine cx neg x1 & pending x1
   Assessment and Plan
   53 y/o F w/ left-sided brain CA, likely primary CNS lymphoma, c/b
   intracranial HTN, midline shift, and uncal herniation with subsequent
   clinical deterioration, now stable with slight improvement in
   neurological status s/p systemic MTX.
   #Brain CA c/b - s/p 1st dose MTX
 improved neuro exam c/w [**6-5**]
   -cont. decadron 8 mg q6; 10 mg IV x 1
   -check mannitol q6; start weaning mannitol starting at 25 g IV q6 (hold
   for osms > 320)
 tapering scale in place.  Will decrease to [**Hospital1 **] dosing
   tomorrow.
   -isotonic IVF
   -consider repeat head CT today
   -[**2197-6-6**] MTX level: 0.15
   -keppra for seizure ppx (no seizure activity reported to date)
   -serial neuro exams
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   #Hyperlipidemia
   -cont. statin
   #F/E/N
   -D51/2NS + 1 amp HCO3 @ 150/hr
   - replace dobhoff tube, continue tube feeds.
   -Replete @ 60 cc/hr
   -24 hr urine for CrCl
   -RISS
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   #Access: PIV; PICC
   #CODE - Presumed FULL pending discussion with family, HCP
   #Dispo: remain in ICU until mannitol taper is complete then discharge
   to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-6**] 02:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-06-09 07:49:00 Physician Resident Progress Note
Chief Complaint: CNS lymphoma c/b edema, IC hypertension
   24 Hour Events:
   MTX cleared; 72 hr level <0.1
   Mannitol tapered to [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-6-9**] 12:17 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o sore throat; no H/A, visual changes, SOB, new
   weakness/numbness
   Flowsheet Data as of  [**2197-6-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 47 (45 - 73) bpm
   BP: 121/65(78) {116/60(78) - 154/93(100)} mmHg
   RR: 9 (8 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,469 mL
                                                                    769 mL
   PO:
             TF:
                                                                    134 mL
                                                                    365 mL
   IVF:
                                                                  2,235 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  5,010 mL
                                                                  1,640 mL
   Urine:
                                                                  5,010 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,541 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99% RA
   Physical Examination
   GEN: Awake, alert, converses with brief responses, follows commands
   HEENT: oral thrush; R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: A&Ox3, wiggles left toes on command, does not move right toes
   spontaneously; 5/5 strength right hand grip, [**1-25**] left hand grip; 1+
   DTRs on right, 1+ on left, ankle jerks absent; right toe is upgoing,
   left toe is mute
   Labs / Radiology
   246 K/uL
   10.4 g/dL
   182 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   19 mg/dL
   101 mEq/L
   139 mEq/L
   29.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   Plt
   280
   265
   237
   220
   235
   232
   246
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   28
   29
   30
   Glucose
   138
   178
   227
   [**Telephone/Fax (3) 3680**]
   182
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration,
   neurological status gradually improving on systemic methotrexate.
    .
   #CNS lymphoma
 neuro exams steadily improving on MTX
   -cont. decadron 8 mg q6; 10 mg IV x 1if acutely decompensates
   -weaning mannitol, [**Hospital1 **] today f/b QD tomorrow, closely observe
   -MTX cleared, 72 hr serum conc. <0.10, may d/c IVF, leucovorin,
   allopurinol, NHCO3
   -keppra for seizure ppx (no seizure activity reported to date)
   .
   #Oral thrush
   -nystatin S&S
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -tube feeds
   -S&S eval.
   -RISS
   -volume goal: even
    .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   .
   #Access: PIV; PICC
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   .
   #Dispo: remain in ICU until mannitol taper is complete then discharge
   to floor.
   GEN: Awake, alert, converses with brief responses, follows commands
   HEENT: oral thrush; R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: A&Ox3, wiggles left toes on command, does not move right toes
   spontaneously; 5/5 strength right hand grip, [**1-25**] left hand grip; 1+
   DTRs on right, 1+ on left, ankle jerks absent; right toe is upgoing,
   left toe is mute
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-8**] 07:00 PM 60 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   22 Gauge - [**2197-6-8**] 04:25 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for observation until mannitol taper complete

2197-06-09 11:45:00 Physician Attending Progress Note
Chief Complaint: Cerebral Edema
   CNS Lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with some improvement in mental alertness in the setting of
   mannitol taper
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-6-9**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2197-6-9**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 55 (45 - 73) bpm
   BP: 118/73(84) {117/60(78) - 150/93(100)} mmHg
   RR: 9 (8 - 15) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  5,129 mL
                                                                  2,683 mL
   PO:
             TF:
                                                                    134 mL
                                                                    601 mL
   IVF:
                                                                  4,895 mL
                                                                  1,982 mL
   Blood products:
   Total out:
                                                                  5,010 mL
                                                                  2,260 mL
   Urine:
                                                                  5,010 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    119 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: s/p bx
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   246 K/uL
   182 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   19 mg/dL
   101 mEq/L
   139 mEq/L
   29.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   Plt
   280
   265
   237
   220
   235
   232
   246
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   28
   29
   30
   Glucose
   138
   178
   227
   [**Telephone/Fax (3) 3680**]
   182
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   53 yo female with CNS lymphoma and significant cerebral edema now with
   continued Mannitol taper and goal to move to Steroid Rx only.
   CNS Lymphoma
   -Bactrim Qd
   -MTX at reasonable dosing
   -Allopurinol
   -Leucovorin
   -LFT's without significant change
   -
   Cerebral Edema
improving exam at this time.
   -Decadron
   -Mannitol to qd today
   -Exam q 2 hrs
   -Keppra
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-9**] 07:55 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   22 Gauge - [**2197-6-8**] 04:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2197-06-09 12:25:00 Physician Resident Progress Note
Chief Complaint: CNS lymphoma, intracranial HTN
   24 Hour Events:
   Mannitol weaned to [**Hospital1 **]
   MTX cleared, 72 hr. serum level 0.10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-6-9**] 07:30 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o sore throat. Denies H/A, visual changes, new
   focal/weakness
   Flowsheet Data as of  [**2197-6-9**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 55 (45 - 73) bpm
   BP: 118/73(84) {117/60(78) - 150/93(100)} mmHg
   RR: 9 (8 - 15) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  5,129 mL
                                                                  2,739 mL
   PO:
             TF:
                                                                    134 mL
                                                                    649 mL
   IVF:
                                                                  4,895 mL
                                                                  1,990 mL
   Blood products:
   Total out:
                                                                  5,010 mL
                                                                  2,260 mL
   Urine:
                                                                  5,010 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    119 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Examination
   GEN: Awake, alert, converses with brief responses, follows commands
   HEENT: oral thrush; R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: A&Ox3, wiggles left toes on command, does not move right toes
   spontaneously; 5/5 strength right hand grip, [**1-25**] left hand grip; 1+
   DTRs on right, 1+ on left, ankle jerks absent; right toe is upgoing,
   left toe is mute
   Labs / Radiology
   246 K/uL
   10.4 g/dL
   182 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   19 mg/dL
   101 mEq/L
   139 mEq/L
   29.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2197-6-3**]  03:41 AM
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   Plt
   280
   265
   237
   220
   235
   232
   246
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   28
   29
   30
   Glucose
   138
   178
   227
   [**Telephone/Fax (3) 3680**]
   182
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration,
   neurological status gradually improving on systemic methotrexate.
    .
   #CNS lymphoma
 neuro exams steadily improving on MTX
   -cont. decadron 8 mg q6; 10 mg IV x 1if acutely decompensates
   -weaning mannitol, [**Hospital1 **] today f/b QD tomorrow, closely observe
   -MTX cleared, 72 hr serum conc. <0.10, may d/c IVF, leucovorin,
   allopurinol, NHCO3
   -keppra for seizure ppx (no seizure activity reported to date)
   .
   #Oral thrush
   -nystatin S&S
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -tube feeds
   -S&S eval.
   -RISS
   -volume goal: even
    .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   .
   #Access: PIV; PICC
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   .
   #Dispo: remain in ICU until mannitol taper is complete f/b transfer to
   floor.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-9**] 07:55 AM 60 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   22 Gauge - [**2197-6-8**] 04:25 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   Code status: FULL
   Disposition: ICU for observation during mannitol taper

2197-06-10 08:06:00 Physician Resident Progress Note
Chief Complaint: CNS lymphoma c/b IC HTN
   24 Hour Events:
   S&S eval reccs - TF through wknd, f/b video swallow study [**6-12**]
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-6-10**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt reports occas. loose non-productive cough; no CP,
   SOB, abd pain, N/V
   Flowsheet Data as of  [**2197-6-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 68 (48 - 105) bpm
   BP: 129/78(88) {113/59(74) - 160/96(105)} mmHg
   RR: 12 (7 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.7 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  4,292 mL
                                                                    858 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                    595 mL
   IVF:
                                                                  2,542 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  5,225 mL
                                                                    775 mL
   Urine:
                                                                  5,225 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -933 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   GEN: Awake, alert, conversant, NAD
   HEENT: oral thrush; R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: A&Ox3, wiggles left toes on command, some minimal movement of
   right toes on command; 5/5 strength right hand grip, [**1-25**] left hand
   grip; 1+ DTRs on right, 1+ on left, ankle jerks absent; right toe is
   upgoing, left toe is mute
   Labs / Radiology
   270 K/uL
   10.9 g/dL
   182 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   28 mg/dL
   102 mEq/L
   137 mEq/L
   32.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   Plt
   280
   265
   237
   220
   235
   232
   246
   270
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   29
   30
   Glucose
   138
   178
   227
   [**Telephone/Fax (2) 3691**]82
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration, now
   neurological status gradually improving with systemic methotrexate
   therapy.
    .
   #CNS lymphoma
 neuro exams steadily improving on MTX
   -taper decadron to 6 mg q6; 10 mg IV x 1if acutely decompensates
   -weaning mannitol, one dose today f/b off tomorrow; head CT 12 hours
   after last dose of mannitor
   -closely observe, serial neuro exams
   -MTX cleared, 72 hr serum conc. <0.10, d/c
d d/c IVF, leucovorin,
   allopurinol, NHCO3
   -keppra for seizure ppx (no seizure activity reported to date)
   .
   #Oral thrush
   -nystatin S&S
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -tube feeds until formal video swallow eval [**6-12**]
   -RISS
   -volume goal: even
 500 neg
    .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   .
   #Access: PIV; PICC
   .
   #CODE - Presumed FULL pending discussion with family, HCP
   .
   #Dispo: remain in ICU until stable following mannitol taper is
   complete, f/b transfer to floor.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-10**] 05:12 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   22 Gauge - [**2197-6-8**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2197-06-10 11:52:00 Physician Attending Progress Note
Chief Complaint: cerebral edema, cns lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   speech and swallow eval yesterday
 pt unable to cooperate with eval,
   will have formal video study Mon, remains on TFs
   neuron exam, alertness much improved
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-6-10**] 07:36 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-10**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 69 (50 - 105) bpm
   BP: 139/83(94) {113/59(74) - 160/96(105)} mmHg
   RR: 8 (7 - 13) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  4,292 mL
                                                                    964 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                    639 mL
   IVF:
                                                                  2,542 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  5,225 mL
                                                                  1,365 mL
   Urine:
                                                                  5,225 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -933 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, confused, easily
   agitated
   Eyes / Conjunctiva: PERRL eomi
   Head, Ears, Nose, Throat: Normocephalic, oral thrush
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: present (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  warm, without rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): knows name, confused,
    Movement:purposeful, No(t) Sedated, No(t) Paralyzed, Tone: wnl,
   strength,  l > r weakness, hand grip, CN intact
   Labs / Radiology
   10.9 g/dL
   270 K/uL
   182 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.4 mEq/L
   28 mg/dL
   102 mEq/L
   137 mEq/L
   32.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2197-6-3**]  09:56 AM
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   Plt
   280
   265
   237
   220
   235
   232
   246
   270
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   29
   30
   Glucose
   138
   178
   227
   [**Telephone/Fax (2) 3691**]82
   Other labs: PT / PTT / INR:12.5/22.5/1.1, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Lactic Acid:1.5 mmol/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.7 mg/dL
   Imaging: cxr--NGT in (since has pulled out)
   clear lungs
   Microbiology: no data
   Assessment and Plan
   53 yo female with CNS lymphoma in ICU for management of cerebral edema
   --Currently being treated with MTX, Mannitol taper and steroids.
   -- Overall clinically improving, but seems significantly more agitated
   on rounds w/ increased confusion
   Primary issues include:
   #CNS Lymphoma
   - MTX (s/p leucovorin/allopurinol)
   -follow lfts
   -onc recs
   -Keppra for sz prophy
   # Cerebral Edema
improving neuron exam, but with increased agitation
   -continue Decadron
>taper to 6 Q
   -Mannitollast dose today
> with repeat head ct
   d/w neuro need for more urgent ct given acute agitation, though this
   seems more c/w toxic metabolic picture or steroid psychosis
   -neuro exam q 2 hrs
   -Bactrim for pcp [**Name9 (PRE) **] while on steroids
   # Leukocytosis
likely [**12-24**] steroids
   now with what seems to be worsening agitation and confusion
   --Pan cx to assess infection
   -- Sats stable on RA with clear cxr
   ICU Care
   Nutrition:
   Comments: TFs--held since NGT pulled
will replace ngt,
        will need video swallow study
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-8**] 08:00 AM
   22 Gauge - [**2197-6-8**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-06-11 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NCCT head
 interval improvement of vasogenic edema, midline shift
   BCx
 1 set 2/2 bottles GPC pairs/clusters
 started vanco 1 g IV q12
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-6-10**] 06:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-11**] 12:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies fever, chills, H/A, visual changes, new
   focal sensorimotor
   Flowsheet Data as of  [**2197-6-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 76 (55 - 85) bpm
   BP: 132/73(88) {107/65(76) - 146/98(105)} mmHg
   RR: 9 (8 - 13) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,198 mL
                                                                    603 mL
   PO:
             TF:
                                                                  1,233 mL
                                                                    431 mL
   IVF:
                                                                    725 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    600 mL
   Urine:
                                                                  3,055 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -857 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   GEN: Awake, alert, conversant, NAD
   HEENT: oral thrush; R pupil 6 mm, L pupil 5 mm, reactive
   CV: reg brady nl S1S2 no m/r/g
   PULM: CTAB anteriorly no w/r/r
   ABD: obese, soft NTND +BS
   EXT: warm, dry +PP tr edema bilat
   NEURO: A&Ox3, wiggles left toes on command, some minimal movement of
   right toes on command; 5/5 strength right hand grip, [**1-25**] left hand
   grip; 1+ DTRs on right, 1+ on left, ankle jerks absent; right toe is
   upgoing, left toe is mute
   Labs / Radiology
   265 K/uL
   11.6 g/dL
   197 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   31 mg/dL
   100 mEq/L
   134 mEq/L
   32.8 %
   12.6 K/uL
         [image002.jpg]
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
                             [**2197-6-11**]  04:28 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   12.6
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   32.8
   Plt
   280
   265
   237
   220
   235
   232
   [**Telephone/Fax (3) 3713**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   30
   Glucose
   178
   227
   217
   [**Telephone/Fax (3) **]
   182
   197
   Other labs: PT / PTT / INR:13.6/27.9/1.2, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration, now
   neurological status gradually improving with systemic methotrexate
   therapy but waxing/[**Doctor Last Name 42**] delirium x 2 days.
    .
   #CNS lymphoma
 neuro exams steadily improving s/p 1 cycle MTX
   -taper decadron to 6 mg q6; 10 mg IV x 1if acutely decompensates
   -keppra for seizure ppx (no seizure activity reported to date)
   .
   #Delirium
 toxic encephalopathy vs. steroid psychosis; +BCx
   -cont. vanco IV until speciation available, if true pathogen not a
   contaminant, d/c PICC
   -urine Cx pending
   -tapered steroids as above
   .
   #Oral thrush
   -nystatin S&S
   .
   #HTN
   -cont lisinopril
   -lopressor 5 mg IV q4h/PRN SBP > 160
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -tube feeds until formal video swallow eval [**6-12**]
   -RISS
   -volume goal: even
 500 neg
    .
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   .
   #Access: PIV; treat with vanco, d/c PICC if +BCx not a contaminant
   .
   #CODE - FULL
   .
   #Dispo: stable for transfer to floor.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-11**] 03:17 AM 60 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-8**] 08:00 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   Code status: Full code
   Disposition: Transfer to floor

2197-06-11 10:14:00 Physician Attending Progress Note
Chief Complaint: CNS lymphoma
   cerebral edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo female with CNS lymphoma in ICU for management of cerebral edema
   24 Hour Events:
 BLOOD CULTURED - At [**2197-6-10**] 12:20 PM
 URINE CULTURE - At [**2197-6-10**] 12:20 PM
 BLOOD CULTURED - At [**2197-6-10**] 01:18 PM
   decadron decreased to 6 Q 6
   mannitol stopped yesterday
      repeat head CT last night
some improvement in cerebral edema
   vanco started this am for + bl cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-6-10**] 06:18 PM
   Vancomycin - [**2197-6-11**] 08:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-11**] 07:55 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-11**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 63 (55 - 85) bpm
   BP: 127/80(91) {107/65(76) - 146/98(105)} mmHg
   RR: 10 (8 - 13) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,198 mL
                                                                  1,160 mL
   PO:
             TF:
                                                                  1,233 mL
                                                                    600 mL
   IVF:
                                                                    725 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    945 mL
   Urine:
                                                                  3,055 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -857 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): alert, oriented to place and date, Movement:
   Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   265 K/uL
   197 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   31 mg/dL
   100 mEq/L
   134 mEq/L
   32.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2197-6-3**]  05:10 PM
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
                             [**2197-6-11**]  04:28 AM
   WBC
   14.4
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   12.6
   Hct
   35.6
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   32.8
   Plt
   280
   265
   237
   220
   235
   232
   [**Telephone/Fax (3) 3713**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   30
   Glucose
   178
   227
   217
   [**Telephone/Fax (3) **]
   182
   197
   Other labs: PT / PTT / INR:13.6/27.9/1.2, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: repeat head CT--pending
   Microbiology: bl cx + gpc
   Assessment and Plan
   53 yo female with CNS lymphoma in ICU for management of cerebral edema
   -- Currently being treated with MTX and steroids.
   -- Overall clinically improving, but remains agitated/confusion
   /delirious
   -- now with 1 blood cx pos with vanco started, remains AF with stable
   WBC
   Primary issues include:
   #CNS Lymphoma
   - MTX (s/p leucovorin/allopurinol)--follow lfts
   -onc recs
   -Keppra for sz prophy
   # Cerebral Edema
improving neuro exam, but with increased
   agitation/delirium
   -continue Decadron
> at  6 Q 6
   - repeat head CT with some improvement in edema after last mannitol
   dope
   -  continue neuro checks
   - Bactrim for pcp [**Name9 (PRE) **] while on steroids
   # Bacteremia
f/u final speciation from bl cx
s as currently only 1
   bottle pos (has a picc line)
pending final speciation consider d/c picc
   with line holiday
   Continue Vanco for now
   # Leukocytosis
likely [**12-24**] steroids vs possible infection (lower
   clinical suspicion), stable
   F/u cx data
   Sats stable on RA with clear cxr
   # Nutrition
TFs via NGT, will have video swallow on Monday
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-11**] 03:17 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-8**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor
   Total time spent: 35 minutes

2197-06-12 07:23:00 Physician Resident Progress Note
Chief Complaint: monitoring while weaning off mannitol
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration, now
   neurological status gradually improving with systemic methotrexate
   therapy but waxing/[**Doctor Last Name 42**] delirium x 2 days.
   24 Hour Events:
   Became more delerious 2 days ago.  Pan cultured at that time.  Blood cx
   pos for GPC (unclear if pathogen vs. contamination).  Fup blood cx
   ordered
  swallow study ordered for today.   Not done due to problem with
   radiology room.
  agitation typically worse in AM.  Episodes of tachycardia to 140s
   when agitated
   Subjective:
   Patient with no complaints this am.  Patient denies dysuria or
   suprapubic pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-6-10**] 06:18 PM
   Vancomycin - [**2197-6-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-12**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 78 (63 - 93) bpm
   BP: 124/75(85) {108/67(78) - 140/85(98)} mmHg
   RR: 12 (8 - 14) insp/min
   SpO2: 96%  RA
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.8 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,611 mL
                                                                    608 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    435 mL
   IVF:
                                                                  1,051 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    500 mL
   Urine:
                                                                  2,645 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen:  patient agitated.  Difficulty expressing what she wishes to say
   Lungs: CTA anteriorly
   HEENT: NCAT. Incision with sutures.  Sclera white, PERRL.
   CV: RRR, S1 & S2 nl, no m/r/g
   Abd: +BS, NT, ND, no masses, soft
   ext: A&O x1 (to person).  moving Right and Left extremeties.  Right UE
   & LE have less vigorous motor response.  Patient will follow commands
   :
   Labs / Radiology
   256 K/uL
   12.8 g/dL
   186 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   33 mg/dL
   101 mEq/L
   133 mEq/L
   36.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
                             [**2197-6-11**]  04:28 AM
                             [**2197-6-12**]  05:00 AM
   WBC
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   12.6
   15.5
   Hct
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   32.8
   36.1
   Plt
   265
   237
   220
   235
   232
   246
   [**Telephone/Fax (3) 3726**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   30
   Glucose
   178
   227
   217
   [**Telephone/Fax (3) **]
   182
   197
   186
   Other labs: PT / PTT / INR:13.6/27.9/1.2,
   ALT / AST:69/16, Alk Phos / T Bili:62/0.5,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %,
   Lactic Acid:1.5 mmol/L,
   Ca++:10.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: Head CT [**6-10**] -
   1. Slight improvement in mass effect related to known left frontal
   lymphoma,
   including slightly decreased shift of midline structures to the right,
   and
   slightly decreased left subfalcine herniation. Unchanged left uncal
   herniation.
   2. Slight re-expansion of the left lateral ventricle. Persistent
   trapping of
   the right lateral ventricle, with slightly decreased dilatation of the
   temporal [**Doctor Last Name 1347**].
   Microbiology: [**6-10**] blood cx - GPC in pairs & clusters
   blood cx x2 pending
   URINE CULTURE (Final [**2197-6-11**]):
         CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    >100,000 ORGANISMS/ML
   in [**11-24**] cx.
   Assessment and Plan
   53 y/o F w/ left-sided CNS lymphoma, c/b intracranial HTN, midline
   shift, and uncal herniation with subsequent clinical deterioration, now
   neurological status gradually improving with systemic methotrexate
   therapy but waxing/[**Doctor Last Name 42**] delirium x 2 days.
   #CNS lymphoma
 neuro exams steadily improving s/p 1 cycle MTX
   -taper decadron to 4 mg q6 per neuro rec; 10 mg IV x 1if acutely
   decompensates
   -keppra for seizure ppx (no seizure activity reported to date)
 change
   to PO dosing today.  If pulls [**Last Name (LF) **], [**First Name3 (LF) 178**] have to resume IV dosing
   -waiting for bed on [**Hospital Ward Name 713**] 7.
   #Delirium
 seems improved from weekend.  DDX = toxic encephalopathy
   vs. steroid psychosis; +BCx
   -cont. vanco IV until speciation available, if true pathogen not a
   contaminant, d/c PICC
   -fup blood cx.
   -tapered steroids as above
   #bacteremia
 blood cx post for GPC -?pathogen vs. contaminant
   -started on vancomycin
   -fup cx
   # urine cx  - pos for corynebacterium.
   -likely contaminant, will not treat for now
   #Oral thrush
   -nystatin S&S
   #HTN /Tachycardia
 increasing episodes of tachycardia associated with
   agitation.
   -cont lisinopril
   -add metoprolol 12.5 mg PO BID
   -lopressor 5 mg IV q4h/PRN SBP > 160
   #Hyperlipidemia
   -cont. statin
   #Weakness/Deconditioning
 Obtain PT consult.
   #F/E/N
   -tube feeds until formal video swallow eval [**6-12**]
   -RISS
   -volume goal: even
 500 neg
   #PPx
   -keppra
   -bactrim
   -protonix
   -SQH
   -ISS
   #Access: PIV; d/c PICC if +BCx not a contaminant
   #CODE - FULL
   #Dispo: stable for transfer to floor once bed is available on 7
   [**Hospital Ward Name 713**].
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-12**] 04:15 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-8**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-06-12 11:29:00 Physician Attending Progress Note
Chief Complaint: Cerebral Edema
   CNS Lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2197-6-12**] 06:55 AM
   blood culture x1
   -Mild and intermittent agitation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-6-10**] 06:18 PM
   Vancomycin - [**2197-6-12**] 08:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-6-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-6-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-6-12**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 104 (67 - 104) bpm
   BP: 134/82(94) {108/67(78) - 150/87(100)} mmHg
   RR: 12 (8 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.8 kg (admission): 94.1 kg
   Height: 72 Inch
             Total In:
                                                                  2,611 mL
                                                                  1,251 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    678 mL
   IVF:
                                                                  1,051 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                  1,170 mL
   Urine:
                                                                  2,645 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Post Surgical Changes
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed  Responds to questions appropriately, has
   good movement of left side and will move upper and lower extremity on
   right but less strength clearly.
   Labs / Radiology
   12.8 g/dL
   256 K/uL
   186 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   33 mg/dL
   101 mEq/L
   133 mEq/L
   36.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2197-6-3**]  05:23 PM
                             [**2197-6-4**]  04:18 AM
                             [**2197-6-5**]  04:11 AM
                             [**2197-6-6**]  04:03 AM
                             [**2197-6-7**]  04:02 AM
                             [**2197-6-8**]  03:27 AM
                             [**2197-6-9**]  01:56 AM
                             [**2197-6-10**]  04:37 AM
                             [**2197-6-11**]  04:28 AM
                             [**2197-6-12**]  05:00 AM
   WBC
   13.3
   11.5
   12.8
   9.8
   8.8
   8.0
   12.3
   12.6
   15.5
   Hct
   31.8
   31.3
   31.2
   31.8
   30.7
   29.7
   32.0
   32.8
   36.1
   Plt
   265
   237
   220
   235
   232
   246
   [**Telephone/Fax (3) 3726**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   30
   Glucose
   178
   227
   217
   [**Telephone/Fax (3) **]
   182
   197
   186
   Other labs: PT / PTT / INR:13.6/27.9/1.2, ALT / AST:69/16, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**6-10**]--GPC x1 from blood
   Urine-Pending
   Assessment and Plan
   53 yo female with CNS lymphoma and significant cerebreal insult and
   edema with improvement in edema and exam on mannitol and decdron Rx in
   the setting of MTX therapy.
   -Cerebral Edema-
   -Continue with Decadron (6mg q 6 hrs)
and wean today
   -Mannitol off at this time
   -CT Head was showing reassuring improvement in midline shift
   -Keppra to continue
 CANCER (MALIGNANT NEOPLASM), BRAIN--CNS Lymphoma
   -On MTX and continuing per Dr. [**Last Name (STitle) 810**]
   [**Name (STitle) 3736**] LFT
   HTN-
   HCTZ to continue
   ALTERED MENTAL STATUS-
   -1/4 bottles positive after investigation for altered mental status
   -Vancomycin started
   -Will consider D/C depending on culture findings.
   gg
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2197-6-12**] 04:15 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2197-6-4**] 10:16 PM
   20 Gauge - [**2197-6-8**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes